US07371852B2
The 1,10-Diiodo-dec-5-ene (1 equiv.) is dissolved in anhydrous acetone at ambient temperature followed by the addition of potassium phthalimide (4. equiv.). The reaction mixture is stirred until completion, washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The crude product is purified via silica gel chromatography to afford 1,10-dipthalimido-dec-5-ene.

reactant | 1,10-Diiodo-dec-5-ene | 1 equiv. | ICCCCC=CCCCCI | C10H18I2
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetone | CC(=O)C | C3H6O
product | 1,10-dipthalimido-dec-5-ene | C1(C=2C(C(N1CCCCC=CCCCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C26H26N2O4
